2109-03-27 10:06:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2109-3-26**] 08:00 AM
 MIDLINE - START [**2109-3-26**] 09:06 AM
 EKG - At [**2109-3-26**] 09:08 AM
 ARTERIAL LINE - START [**2109-3-26**] 01:10 PM
 TRANSTHORACIC ECHO - At [**2109-3-26**] 03:49 PM
 BRONCHOSCOPY - At [**2109-3-26**] 04:41 PM
 ULTRASOUND - At [**2109-3-26**] 04:52 PM
 EKG - At [**2109-3-26**] 08:00 PM
 MIDLINE - STOP [**2109-3-26**] 10:00 PM
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-3-26**] 10:21 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-3-27**] 05:56 AM
   Metronidazole - [**2109-3-27**] 08:30 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2109-3-26**] 09:13 PM
   Fentanyl - [**2109-3-27**] 03:30 AM
   Famotidine (Pepcid) - [**2109-3-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-3-27**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96.1
   HR: 63 (63 - 123) bpm
   BP: 83/53(65) {75/51(60) - 128/91(104)} mmHg
   RR: 14 (0 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  6,313 mL
                                                                    652 mL
   PO:
             TF:
   IVF:
                                                                  6,025 mL
                                                                    652 mL
   Blood products:
                                                                    288 mL
   Total out:
                                                                  1,110 mL
                                                                    522 mL
   Urine:
                                                                  1,110 mL
                                                                    522 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,203 mL
                                                                    130 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.40/37/146/21/0
   Ve: 5.9 L/min
   PaO2 / FiO2: 365
   Physical Examination
   Gen:intubated, moves to voice,
   CV:irreg ireeg
   Chest: coarse BS bilat, focal whezze over right mainstem
   Abd:obese distended +BS
   Ext:edema
   Labs / Radiology
   9.4 g/dL
   295 K/uL
   131 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.5 mEq/L
   11 mg/dL
   103 mEq/L
   134 mEq/L
   27.2 %
   14.8 K/uL
        [image002.jpg]
                             [**2109-3-26**]  07:53 AM
                             [**2109-3-26**]  08:04 AM
                             [**2109-3-26**]  10:40 AM
                             [**2109-3-26**]  10:41 AM
                             [**2109-3-26**]  05:41 PM
                             [**2109-3-26**]  06:04 PM
                             [**2109-3-27**]  03:49 AM
                             [**2109-3-27**]  03:54 AM
                             [**2109-3-27**]  06:15 AM
   WBC
   20.2
   20.8
   21.7
   14.8
   Hct
   33.6
   33.4
   32.6
   27.2
   Plt
   [**Telephone/Fax (3) 2552**]95
   Cr
   1.1
   1.0
   1.0
   1.0
   TropT
   0.11
   0.09
   TCO2
   28
   24
   21
   22
   24
   Glucose
   152
   166
   145
   131
   Other labs: PT / PTT / INR:43.9/38.3/4.9, CK / CKMB /
   Troponin-T:103/9/0.09, ALT / AST:76/112, Alk Phos / T Bili:292/0.2,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.3 g/dL, LDH:378 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   1. Pharyngeal Tear: stable oxygenation and ventilation, follow up CT
   stable sq air in neck but ++ swelling. ABX, daily CXR
   2. Cuff leak: discuss tube change with IP/[**Last Name (LF) 2554**], [**First Name3 (LF) **] be just have
   not moved up high enough into airway and need to do under visualization
   and then resecure
   3. Hemodynamics:  likely mixed picture with sepsis and dominant factor
   as she is still fluid responsive - will bolus this AM, try to wean off
   levophed
                                  Single + blood culture with GPC- sources
   PNA, PICC infection (now out),
                                  Check C diff, now abd exam more
   reassuring, will hold off on CT
                                   Urine: follow up urine culture
   4. New Ant Wall motion abnl: new echo abnl. Likely due to event
   sometime in past 3 weeks but no acute event based on enzymes,  ECG, no
   evidence of active ischemia, repeat ECG this AM
   5. Coagulopathy: was anticoag for Afib
 needs reversal airway
   bleeding, potential proceures
   ICU Care
   Nutrition: NPO need to consider tpn but only have fem access
 issues
   as below
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-3-26**] 08:00 AM
 femoral- would like to resite, has
   pacer wires both subclav so would be IJ, and has sq air, not ideal, but
   could try for left IJ as less sq air on that side
   Arterial Line - [**2109-3-26**] 01:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   45 minute family meeting with daughter [**Name (NI) **] [**Last Name (NamePattern1) **] and her friend [**Name (NI) 2560**].
   They are beginning to ask about goals of care and quality of life
   issues. We discussed her airway injury, need for mechanical
   ventilation, pressor dependent hypotension, new low EF, and presumed
   sepsis. Fopr now plan is full code, but they are considering DNR, and
   would like to meet with Palliative Care in the AM.
   Risks benefits of resting femoral to IJ discussed and they would like
   to proceed.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1876**] [**Last Name (NamePattern1) 1877**], MD
   on:[**2109-3-27**] 19:18 ------

2109-03-28 07:39:00 Physician Resident Progress Note
Chief Complaint: Shock
   24 Hour Events:
 BLOOD CULTURED - At [**2109-3-27**] 10:15 AM
   taken from the left arterial line
 BRONCHOSCOPY - At [**2109-3-27**] 05:00 PM
   - Met with family, no change in goals of care
   - FFP 4 units for line/Bronchoscopy
   - Thoracics pulled ET tube back to 18cm and secured tube, placed OG
   tube under direct visualization
   - Repeat CXR now with elevated position but confirmed placement by
   bronch as above.
   - Central line attempted on left IJ, unable to thread wire, ?clot on
   L-side
   - Back on levophed for MAP's in 50's in setting of above and then later
   weaned off after 4 units FFP.
   - No increase in UOP, and with frothy sputum, increasing work of
   breathing, coards breath sounds so gave 10mg IV lasix x1 - held
   pressures, and have not restarted levophed at thist ime.
   - PM Hct 25.6
   - Cuff leak resolved with repositioning, on pressure support,
   tolerating well
   - Irrigated bladder for low UOP and pink color ? clot - but no
   obstruction.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-3-26**] 10:21 AM
   Metronidazole - [**2109-3-28**] 12:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-3-28**] 05:21 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-3-27**] 08:00 AM
   Midazolam (Versed) - [**2109-3-27**] 07:50 PM
   Furosemide (Lasix) - [**2109-3-28**] 01:00 AM
   Fentanyl - [**2109-3-28**] 02:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-3-28**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 72 (62 - 95) bpm
   BP: 108/65(82) {74/48(59) - 116/75(92)} mmHg
   RR: 16 (13 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74 kg (admission): 71.1 kg
   Height: 62 Inch
    CVP: 24 (10 - 25)mmHg
   Total In:
                                                                  4,162 mL
                                                                    515 mL
   PO:
   TF:
   IVF:
                                                                  3,022 mL
                                                                    515 mL
   Blood products:
                                                                  1,140 mL
   Total out:
                                                                    741 mL
                                                                    204 mL
   Urine:
                                                                    741 mL
                                                                    204 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,421 mL
                                                                    311 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 345 (345 - 436) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.38/37/134/22/-2
   Ve: 7.1 L/min
   PaO2 / FiO2: 335
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, Rhonchorous: anteriorly, ? reverberating sound)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Sedated, Tone: Normal, pt tracks but not able to squeeze hand or wiggle
   toes
   Labs / Radiology
   211 K/uL
   8.1 g/dL
   112 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.6 mEq/L
   12 mg/dL
   106 mEq/L
   137 mEq/L
   24.4 %
   10.4 K/uL
        [image002.jpg]
                             [**2109-3-26**]  05:41 PM
                             [**2109-3-26**]  06:04 PM
                             [**2109-3-27**]  03:49 AM
                             [**2109-3-27**]  03:54 AM
                             [**2109-3-27**]  06:15 AM
                             [**2109-3-27**]  02:35 PM
                             [**2109-3-27**]  02:45 PM
                             [**2109-3-27**]  10:10 PM
                             [**2109-3-27**]  10:33 PM
                             [**2109-3-28**]  04:47 AM
   WBC
   21.7
   14.8
   14.5
   10.4
   Hct
   32.6
   27.2
   25.6
   24.4
   Plt
   421
   295
   318
   211
   Cr
   1.0
   1.0
   0.8
   1.1
   TropT
   0.09
   TCO2
   21
   22
   24
   23
   23
   Glucose
   145
   131
   88
   112
   Other labs: PT / PTT / INR:17.5/30.7/1.6, CK / CKMB /
   Troponin-T:103/9/0.09, ALT / AST:39/33, Alk Phos / T Bili:185/0.3,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.9 g/dL, LDH:289 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Microbiology: [**3-26**] 8000 GNR urine
   [**3-26**] sputum sparse yeast
   [**3-26**] blood gram + cocci
   [**3-27**] blood cx ngtd
   Assessment and Plan
 CARDIOMYOPATHY, OTHER
   79F with COPD, CAD, a fib, lung cancer, now with respiratory distress
   and septic shock now with clear evidence of recent cardiac event.
   .
   # Respiratory failure
 Likely resulting from septic shock (below).
   Acute episode of sob at rehab concerning for PNA versus PE (CTA
   negative) vs. CHF (mild chf on exam).  She does not have an obvious
   infiltrate on the CXR.
   - Intubated after a complicated course at OSH (pharyngeal laceration).
   - Currently with excellent ABG 7.4/37/146 on current [**Month/Day (4) **] settings,
   awaiting AM RISBI.  Probably could tolerate pressure support trial
   today but given complicated intubation may be preferable to wait until
   swelling resolves so as not to loose airway.
   - Nebs given history of COPD
   - No e/o significant CHF by X-ray although some increase in volume
   overload after fluids today.
   .
   #[**Month/Day (4) **] Management: Good RISBI this AM and could likely wean the [**Last Name (LF) **], [**First Name3 (LF) **]
   will try pressure support today.  Trauma of intubation may necessitate
   trach or extended intubation given swelling.
   - Cuff leak: Slow, continue to monitor.  Consider change over wire
   discuss with thoracics
   - ET tube migrating distally despite frequent repositioning.
   .
   # Shock:   patient with recent admission for c. difficilie coliits and
   has been on abx recently.  Ddx for sepis most likely urinary versus
   intrabdominal source vs. line sepsis.  She does have some LLQ
   tenderness on exam.  Given Echo findings unclear what component
   cardiogenic shock may play in presentation with also evidence for
   adrenal insufficiency given inadequate response to [**Last Name (un) 45**] stim
   yesterday.  Likely multifactorial with urosepsis precipitating shock in
   patient with newly depressed EF.
   - Continue vanc/zosyn/flagyl, and wean levophed as tolerated.  Bolus
   fluid for MAP < 65.
   - check stool culture (c. diff)
 not sent yet
   - Urine culture, sputum culture, blood culture pending
   - CT abd/pelvis to eval for colitis -> need to give IV contrast and so
   need access.
   - IVF and levophed as needed to keep MAP >65 (difficult to get CVP, fem
   line)
 will discuss change from levophed to dobutamine or dopamine for
   pressure support.
   - broad spectrum abx and will cover broadly until micro data confirm
   sensitivity of organism.
   - Will cover with vanc (OSH PICC in place) + zosyn (recent Icu
   admission) + IV flagyl for recent c. diff
   - steroids for another 24 hours then d/c in AM given clinically
   improving
   - fingersticks for euglycemic control
   ..
   # CAD: Recent large anterior infarct, with EF 20-25%.
   - Aspirin 81mg daily  per NGT
   - Start statin today
   - Add ACE/B-blocker once pressure allows.
   .
   # A fib:  rate controlled for now.  Follow INR daily, 1.6 this AM may
   need heparing gtt, received vit K yesterday. PPM to be interrogated by
   EP today.
   .
   # DVT: Follow INR closely, INR 1.6 today
   # Coagulopathy: Received Vit K and FFP o/n, INR 1.6 this AM, will need
   to follow closely, placed on SQ heparin, may need heparin gtt if still
   low
   # Transaminitis: may be from hypotension would follow daily. Have
   normalized
   .
   # Access: will attempt PICC line placement, if unsuccessful will need
   LIJ, difficulty in regards to pacer wires, thrombus, prior PICC on left
   side
   ICU Care
   Nutrition: Start TF today
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-3-26**] 08:00 AM
   Arterial Line - [**2109-3-26**] 01:10 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: H2 blocker
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:ICU

2109-03-28 10:55:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2109-3-27**] 10:15 AM
   taken from the left arterial line
 BRONCHOSCOPY - At [**2109-3-27**] 05:00 PM - ETT pulled back to tape at 18
   CM
    - OGT placed
   Left IJ attempted but unable to thread wire- question scar pacer wires
   clot
   Mild pulm edema after 4 U ffp
 given Lasix 10 IV x 1
   Levophed able off
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-3-28**] 05:21 AM
   Metronidazole - [**2109-3-28**] 08:15 AM
   Vancomycin - [**2109-3-28**] 08:30 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2109-3-27**] 07:50 PM
   Furosemide (Lasix) - [**2109-3-28**] 01:00 AM
   Fentanyl - [**2109-3-28**] 02:56 AM
   Famotidine (Pepcid) - [**2109-3-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2109-3-28**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.9
C (96.6
   HR: 77 (62 - 95) bpm
   BP: 124/82(99) {74/48(59) - 124/82(99)} mmHg
   RR: 17 (13 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74 kg (admission): 71.1 kg
   Height: 62 Inch
   CVP: 20 (10 - 25)mmHg
   Total In:
                                                                  4,162 mL
                                                                    926 mL
   PO:
   TF:
   IVF:
                                                                  3,022 mL
                                                                    926 mL
   Blood products:
                                                                  1,140 mL
   Total out:
                                                                    741 mL
                                                                    314 mL
   Urine:
                                                                    741 mL
                                                                    314 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,421 mL
                                                                    612 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 454 (345 - 454) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.38/37/134/22/-2
   Ve: 5.5 L/min
   PaO2 / FiO2: 335
   Physical Examination
   Gen:intubated, moves to voice,
   CV:irreg ireeg
   Chest: coarse BS bilat, occ wheezes with expiration
   Abd:obese distended +BS
   Ext: 1+edema
   Labs / Radiology
   8.1 g/dL
   211 K/uL
   112 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.6 mEq/L
   12 mg/dL
   106 mEq/L
   137 mEq/L
   24.4 %
   10.4 K/uL
        [image002.jpg]
                             [**2109-3-26**]  05:41 PM
                             [**2109-3-26**]  06:04 PM
                             [**2109-3-27**]  03:49 AM
                             [**2109-3-27**]  03:54 AM
                             [**2109-3-27**]  06:15 AM
                             [**2109-3-27**]  02:35 PM
                             [**2109-3-27**]  02:45 PM
                             [**2109-3-27**]  10:10 PM
                             [**2109-3-27**]  10:33 PM
                             [**2109-3-28**]  04:47 AM
   WBC
   21.7
   14.8
   14.5
   10.4
   Hct
   32.6
   27.2
   25.6
   24.4
   Plt
   421
   295
   318
   211
   Cr
   1.0
   1.0
   0.8
   1.1
   TropT
   0.09
   TCO2
   21
   22
   24
   23
   23
   Glucose
   145
   131
   88
   112
   Other labs: PT / PTT / INR:17.5/30.7/1.6, CK / CKMB /
   Troponin-T:103/9/0.09, ALT / AST:39/33, Alk Phos / T Bili:185/0.3,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.9 g/dL, LDH:289 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Microbiology: Urine Cx: greater than 100K GNR
   Sputum spearse yeast
   Blood cx coag neg staph
   Assessment and Plan
   1. Pharyngeal Tear: stable oxygenation and ventilation, follow up CT
   stable sq air in neck but ++ swelling. ABX, daily CXR
   Will have ENT see this AM to discuss criterai for extubation, comment
   on long term management of pharyngeal injury
   2. Resp Distress: initailly maintained on mech vent for upper airway
   edema but now volume overloaded. Will try diuresis and follow ABGs-If
   passes SBT will need to discuss with ENT/IP possibel extubate over Cook
   catheter
   3. Hemodynamics:  likely mixed picture with sepsis initating and but
   now cardioigenic dominating
                                    With ++ fluid we were able to wean off
   levophed but she is not in mild pulm edema, will Rx with Lasix gtts and
   follow up
 goal 1L neg as BP can tolerate.
   4. New Ant Wall motion abnl: new echo abnl. Likely due to event
   sometime in past 3 weeks but no acute event based on enzymes,  ECG, no
   evidence of active ischemia, ASA, statin, bblocker when BP can tolerate
   5. Coagulopathy: as anticoag for Afib
 reversed for procidures
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-3-26**] 08:00 AM
   Arterial Line - [**2109-3-26**] 01:10 PM
   Prophylaxis:
   DVT: sq hep
   Stress ulcer: PPI
   VAP: hob cholorhex
   Communication:  daughter [**Name (NI) **]
   [**Last Name (NamePattern1) 66**] status: Full code
   Disposition : ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   Pt self extunated at 1:15- called to bedise, pt did have sig resp
   distress with exp wheezes but not inspiratory. Gave neb, lasicx
   decadron and racemic epi without effect. Called anethesia for uregtn
   high risk re intuabtion which was accomlished in a controlled setting.
   Updated daughter [**Name (NI) **] on events
   Critical care time 30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 1876**] [**Last Name (NamePattern1) 1877**], MD
   on:[**2109-3-28**] 15:11 ------

2109-03-29 07:07:00 Physician Resident Progress Note
Chief Complaint: Shock
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2109-3-28**] 01:48 PM
   Self-extubated during the day, and required re-intubation
   -[**First Name8 (NamePattern2) 566**] [**Last Name (NamePattern1) 567**] met with the daughter to start a conversation about goals
   of care: no new changes for now, she will discuss with her brother and
   [**Name (NI) 566**] will be following along
   -ENT recommended decadron around extubation to ease the process,
   however,they cannot exam her while she is intubated
   -HCT stable
   -EP was consulted, they do not recommend any changes to the pacemaker
   -Nutrition recommended restarting tube feeds [**Last Name (LF) 2587**], [**First Name3 (LF) **] she was restarted
   via NG tube
   -In for an IR guided PICC line
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-3-28**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-3-28**] 11:48 AM
   Cefipime - [**2109-3-28**] 05:48 PM
   Metronidazole - [**2109-3-28**] 11:49 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-3-28**] 08:00 AM
   Furosemide (Lasix) - [**2109-3-28**] 01:15 PM
   Fentanyl - [**2109-3-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-3-29**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.3
   HR: 62 (62 - 92) bpm
   BP: 89/55(68) {89/55(68) - 124/82(99)} mmHg
   RR: 12 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74 kg (admission): 71.1 kg
   Height: 62 Inch
    CVP: 18 (15 - 30)mmHg
   Total In:
                                                                  1,649 mL
                                                                    148 mL
   PO:
   TF:
                                                                     24 mL
   IVF:
                                                                  1,589 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  2,324 mL
                                                                    825 mL
   Urine:
                                                                  2,324 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -675 mL
                                                                   -677 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 217 (217 - 465) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.40/38/134/21/0
   Ve: 6.9 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bases)
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed, wiggles
   toes, nods yes and no
   Labs / Radiology
   226 K/uL
   7.9 g/dL
   109 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.7 mEq/L
   12 mg/dL
   104 mEq/L
   135 mEq/L
   23.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2109-3-27**]  06:15 AM
                             [**2109-3-27**]  02:35 PM
                             [**2109-3-27**]  02:45 PM
                             [**2109-3-27**]  10:10 PM
                             [**2109-3-27**]  10:33 PM
                             [**2109-3-28**]  04:47 AM
                             [**2109-3-28**]  01:24 PM
                             [**2109-3-28**]  04:28 PM
                             [**2109-3-28**]  04:34 PM
                             [**2109-3-29**]  05:27 AM
   WBC
   14.5
   10.4
   10.9
   9.1
   Hct
   25.6
   24.4
   25.0
   23.4
   Plt
   [**Telephone/Fax (3) 2588**]26
   Cr
   0.8
   1.1
   1.1
   TCO2
   24
   23
   23
   23
   24
   Glucose
   88
   112
   109
   Other labs: PT / PTT / INR:14.4/27.9/1.3, CK / CKMB /
   Troponin-T:103/9/0.09, ALT / AST:39/33, Alk Phos / T Bili:185/0.3,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.9 g/dL, LDH:245 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 CARDIOMYOPATHY, OTHER
   79F with COPD, CAD, a fib, lung cancer, now with respiratory distress
   and septic shock now with clear evidence of recent cardiac event.
   .
   # Respiratory failure
 Likely resulting from septic shock (below).
   Acute episode of sob at rehab concerning for PNA versus PE (CTA
   negative) vs. CHF (mild chf on exam).  She does not have an obvious
   infiltrate on the CXR.
   - Intubated after a complicated course at OSH (pharyngeal laceration).
   - Check ABG this morning and if place on PS pending result, will not
   need tracheostomy per thoracic surgery, main issues related to volume
   overload, will continue diuresis today, watch throughout day on PS and
   plan on possible extubation tomorrow
   - issue regarding SQ emphysema has remained stable and low concern for
   esophageal injury
   - pharyngeal edema stable
   - Nebs given history of COPD.
   .
   # Shock:   patient with recent admission for c. difficilie coliits and
   has been on abx recently.  Ddx for sepis most likely urinary versus
   intrabdominal source vs. line sepsis.  She does have some LLQ
   tenderness on exam.  Given Echo findings unclear what component
   cardiogenic shock may play in presentation with also evidence for
   adrenal insufficiency given inadequate response to [**Last Name (un) 45**] stim
   yesterday.  Likely multifactorial with urosepsis precipitating shock in
   patient with newly depressed EF.
   - off pressors, switched zosyn to cefepime, continue vanco and flagyl,
   d/w ID, C.diff pendin
   - check stool culture (c. diff)
 negative times 2
   - Urine culture growing >100,000 GNR, f/u speciation
   - SCn from blood cx, likely contaminant, f/u cx ngtd thus far, continue
   vanco for now
   - d/c steroids
   - fingersticks for euglycemic control
   ..
   # CAD: Recent large anterior infarct, with EF 20-25%.
   - Aspirin 325mg daily  per NGT
   - statin
   - Add ACE/B-blocker once pressure allows.
   .
   # A fib:  rate controlled for now.  Follow INR daily, 1.6 this AM may
   need heparing gtt, received vit K yesterday. PPM to be interrogated by
   EP today.
   .
   #  Anemia- retic count low, % sat <25, ferritin >400 in setting stress
   response, iron 43, all this most suggestive of chronic disease with
   component iron deficiency, would add iron supplementation. stools guiac
   negative thus far
   .
   # DVT: Follow INR closely, INR 1.6 today
   .
   # Coagulopathy: Received Vit K and FFP o/n, INR 1.6 this AM, will need
   to follow closely, placed on SQ heparin, may need heparin gtt if still
   low
   # Transaminitis: may be from hypotension would follow daily. Have
   normalized
   .
   # Access: will attempt PICC line placement, if unsuccessful will need
   LIJ, difficulty in regards to pacer wires, thrombus, prior PICC on left
   side
   ICU Care
   Nutrition: Start TF today
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-3-26**] 08:00 AM
   Arterial Line - [**2109-3-26**] 01:10 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: H2 blocker
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2109-3-29**] 04:30 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-3-26**] 08:00 AM
   Arterial Line - [**2109-3-26**] 01:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-03-29 08:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2109-3-28**] 01:48 PM
   Did not have any stridor, but ++ work of breathing
   EP eval for pacer- sensing well no issues
   Lasix drip working well for neg fluid balance
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-3-28**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-3-28**] 11:48 AM
   Cefipime - [**2109-3-28**] 05:48 PM
   Metronidazole - [**2109-3-29**] 08:29 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2109-3-28**] 01:15 PM
   Famotidine (Pepcid) - [**2109-3-29**] 08:00 AM
   Fentanyl - [**2109-3-29**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-3-29**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.9
C (96.6
   HR: 82 (62 - 92) bpm
   BP: 110/68(85) {89/55(68) - 124/82(99)} mmHg
   RR: 14 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74 kg (admission): 71.1 kg
   Height: 62 Inch
   CVP: 258 (15 - 258)mmHg
   Total In:
                                                                  1,599 mL
                                                                    361 mL
   PO:
   TF:
                                                                     42 mL
   IVF:
                                                                  1,539 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  2,324 mL
                                                                  1,125 mL
   Urine:
                                                                  2,324 mL
                                                                  1,125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -725 mL
                                                                   -764 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 217 (217 - 465) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.41/38/158/23/0
   Ve: 6.9 L/min
   PaO2 / FiO2: 316
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   226 K/uL
   100 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.3 mEq/L
   14 mg/dL
   105 mEq/L
   139 mEq/L
   23.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2109-3-27**]  02:35 PM
                             [**2109-3-27**]  02:45 PM
                             [**2109-3-27**]  10:10 PM
                             [**2109-3-27**]  10:33 PM
                             [**2109-3-28**]  04:47 AM
                             [**2109-3-28**]  01:24 PM
                             [**2109-3-28**]  04:28 PM
                             [**2109-3-28**]  04:34 PM
                             [**2109-3-29**]  05:27 AM
                             [**2109-3-29**]  07:27 AM
   WBC
   14.5
   10.4
   10.9
   9.1
   Hct
   25.6
   24.4
   25.0
   23.4
   Plt
   [**Telephone/Fax (3) 2588**]26
   Cr
   0.8
   1.1
   1.1
   1.1
   TCO2
   23
   23
   23
   24
   25
   Glucose
   88
   112
   109
   100
   Other labs: PT / PTT / INR:14.5/27.4/1.3, CK / CKMB /
   Troponin-T:103/9/0.09, ALT / AST:31/24, Alk Phos / T Bili:163/0.3,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:239 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Microbiology: Sputum:yeast
   Blood Cx 1 steph epi
   Urine > 100, 00 GNR - still no speciation
   Assessment and Plan
   1. Pharyngeal Tear: stable oxygenation and ventilation, follow up CT
   stable sq air in neck but ++ swelling. Empiric ABX, daily CXR.  ENT
   will formally consult when extubated but agress with plan as outlined.
   2. Resp Distress: intubated for airway protection and also CHF-
   actually no stridor when self ext so volume overload is primary issue.
   Was on AC, but will convert to PSV this AM and assess her ability to
   tolerate. Will wean PSV
 and try for SBT in AM if can get adequately
   negative
   3. Hemodynamics:  hypotension resolved and has transitioned to CHF
   now on lasix drip
 currently diuresing well
           goal 1- 1.5L
   negative
   4. New Ant Wall motion abnl: new echo abnl. Likely due to event
   sometime in past 3 weeks but no acute event based on enzymes,  ECG, no
   evidence of active ischemia, ASA, statin, bblocker when BP can tolerate
   5. Coagulopathy: as anticoag for Afib
 reversed for procidures
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2109-3-29**] 04:30 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-3-26**] 08:00 AM
   Arterial Line - [**2109-3-26**] 01:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2109-03-30 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2109-3-29**] 03:48 PM
 MIDLINE - START [**2109-3-29**] 05:39 PM
 ARTERIAL LINE - STOP [**2109-3-30**] 03:00 AM
   CPAP all day, gases great
   self d/c a-line, PTT >150 so held tons of pressure for almost 2 hrs to
   stop bleeding
   PICC line placed by IR
   fem line d/c, tip sent for cx
   dnr code
   cefepime monotherapy
   urine cx speciation due today
   lasix gtt and bolus to achieve diuresis, goal was 1-1.5 L, got to 800
   negative
   transfused 1 unit given CAD
   heparin gtt given low INR
   TF held 4am in anticipation of possible extubation
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-3-28**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-3-28**] 11:48 AM
   Metronidazole - [**2109-3-29**] 08:29 AM
   Cefipime - [**2109-3-29**] 03:30 PM
   Infusions:
   Heparin Sodium - 750 units/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-3-29**] 08:00 AM
   Furosemide (Lasix) - [**2109-3-30**] 01:33 AM
   Fentanyl - [**2109-3-30**] 04:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-3-30**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 81 (64 - 111) bpm
   BP: 93/56(62) {93/45(34) - 138/117(122)} mmHg
   RR: 14 (10 - 23) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74 kg (admission): 71.1 kg
   Height: 62 Inch
    CVP: 236 (17 - 258)mmHg
   Total In:
                                                                  2,150 mL
                                                                    589 mL
   PO:
   TF:
                                                                    373 mL
                                                                    169 mL
   IVF:
                                                                  1,042 mL
                                                                    220 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,495 mL
                                                                    775 mL
   Urine:
                                                                  2,495 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -345 mL
                                                                   -186 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 457 (400 - 592) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 17 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.41/38/99.[**Numeric Identifier 253**]/26/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   Left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Patient occasionaly reacts to palpation, but denies pain
   Extremities: Right: 1+, Left: 1+, +Pre-sacral edema - 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   315 K/uL
   9.1 g/dL
   125 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.0 mEq/L
   19 mg/dL
   105 mEq/L
   140 mEq/L
   27.1 %
   19.5 K/uL
        [image002.jpg]
                             [**2109-3-28**]  04:47 AM
                             [**2109-3-28**]  01:24 PM
                             [**2109-3-28**]  04:28 PM
                             [**2109-3-28**]  04:34 PM
                             [**2109-3-29**]  05:27 AM
                             [**2109-3-29**]  07:27 AM
                             [**2109-3-29**]  09:30 AM
                             [**2109-3-29**]  03:01 PM
                             [**2109-3-29**]  03:23 PM
                             [**2109-3-30**]  04:33 AM
   WBC
   10.4
   10.9
   9.1
   12.7
   19.5
   Hct
   24.4
   25.0
   23.4
   27.8
   27.1
   Plt
   [**Telephone/Fax (3) 2618**]66
   315
   Cr
   1.1
   1.1
   1.1
   1.1
   1.3
   TCO2
   23
   24
   25
   25
   25
   Glucose
   112
   109
   100
   100
   125
   Other labs: PT / PTT / INR:14.7/76.5/1.3, CK / CKMB /
   Troponin-T:103/9/0.09, ALT / AST:31/24, Alk Phos / T Bili:163/0.3,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:239 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   Imaging: CXR:
   IMPRESSION:
   1. Stable bilateral atelectasis and pleural effusion at the lung bases.
   Microbiology: UCX: > 100,000 GNR
   BCx: Coag Neg Staph from [**3-26**]
   Catheter Tips: NGTD
   Sputum: Yeast
   Stool: Negative
   Assessment and Plan
 CARDIOMYOPATHY, OTHER
   79F with COPD, CAD, a fib, lung cancer, now with respiratory distress
   and septic shock now with clear evidence of recent cardiac event.
   .
   # Respiratory failure
 Likely resulting from septic shock (below) with
   component of CHF.  Self extubated yesterday but did not tolerate and
   had to be reintubated.  Today, RISBI again good, and could likely be
   extubated.  Has diuresed a bit since self extubating but would like to
   further optimize prior to re-attempting given patient has now had
   several intubation attempts.
   - Intubated after a complicated course at OSH (pharyngeal laceration).
   - tolerating pressure support, will wean support settings.  Get ABG on
   pressure support
   - issue regarding SQ emphysema has remained stable and low concern for
   esophageal injury
   - pharyngeal edema stable
   - Nebs given history of COPD.
   .
   # Shock:   patient with recent admission for c. difficilie coliits and
   has been on abx recently.  Ddx for sepis most likely urinary versus
   intrabdominal source vs. line sepsis.  She did  have some LLQ
   tenderness on exam.  Given Echo findings unclear what component
   cardiogenic shock may play in presentation with also evidence for
   adrenal insufficiency given inadequate response to [**Last Name (un) 45**] stim
   yesterday.  Likely multifactorial with urosepsis precipitating shock in
   patient with newly depressed EF.
   - off pressors, switched zosyn to cefepime while awaiting speciation
   urine cx, d/c vanco and flagyl, d/w ID, C.diff negative times 2
 but
   will restart cefepime given sensitivities on Urine Culture.
   - check stool culture (c. diff)
 negative times 2
   - Urine culture growing >100,000 GNR, -- Klebsiella Pneumoniae
   sensitive to cefepime.
   - SCn from blood cx, likely contaminant, f/u cx ngtd thus far, continue
   vanco for now
   - d/c steroids
   - goal diuresis of 500cc today.
   .
   # CAD: Recent large anterior infarct, with EF 20-25%.
   - Aspirin 325mg daily
   - Atorvastatin 80mg daily
   - Add ACE/B-blocker once pressure allows.
   .
   # A fib:  rate controlled for now.  Follow INR daily, 1.3, received vit
   K. PPM interrogated by EP, device working well, place on heparin gtt
   .
   #  Anemia- retic count low, % sat <25, ferritin >400 in setting stress
   response, iron 43, all this most suggestive of chronic disease with
   component iron deficiency, would add iron supplementation. stools guiac
   negative thus far
   - 1 Unit PRBC yesterday given CAD, although overloaded, risk vs.
   benefit
   .
   # DVT: Received Vit K and FFP o/n, INR 1.3, place on heparin gtt
   .
   # Transaminitis: may be from hypotension would follow daily. Have
   normalized
   .
   # A-Line: self d
d yesterday.  Held pressure for 2 hours.  No e/o
   compartment syndrome at this time but will continue to monitor.
   .
   # Access: will attempt PICC line placement, if unsuccessful will need
   LIJ, difficulty in regards to pacer wires, thrombus, prior PICC on left
   side, t o be done in IR
   ICU Care
   Nutrition:  TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-3-26**] 08:00 AM
   Arterial Line - [**2109-3-26**] 01:10 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: H2 blocker
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2109-3-29**] 05:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2109-03-30 15:58:00 Physician Resident Progress Note
Family Communication:
   Spoke with the daughter [**Name (NI) **] [**Last Name (NamePattern1) **] and updated her on Mrs. [**Known lastname 2628**]
   progress.  She stated that once we extubate, if she has difficulty
   breathing she would prefer to have the patient reintubated.  She still
   would not want to have CPR or any resucitation.  Mentioned that we will
   plan on extubation later today or tomorrow morning.

2109-03-31 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2109-3-30**] 04:18 PM
   - CT Neck (w/o IV contrast) no large abscesses
   - Net out 2.5L by early afternoon - so held lasix gtt.
   - Changed back to zosyn givne Urine sensitivities - Klebsiella -
   resistant to cephalosporins
   - Did well on Pressure support of [**3-25**]
   - Started decadron 10mg IV q6 for 4 doses peri-extubation for airway
   edema in prep for extubation.
   -Decision to be DNR, but daughter would prefer her to be re-intubated
   if she fails her SBT
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-3-28**] 08:30 AM
   Metronidazole - [**2109-3-29**] 08:29 AM
   Cefipime - [**2109-3-29**] 03:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-3-31**] 01:49 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2109-3-30**] 09:53 PM
   Fentanyl - [**2109-3-31**] 12:22 AM
   Other medications:
   Decadron 10 IV q6h
   Lasix gtt- held
   Heparin gtt
   ASA
   atorvastatin
   ISS
   Famotidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Unable to communicate verbally secondary to ET tube
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2109-3-31**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 107 (76 - 130) bpm
   BP: 88/50(68) {77/26(36) - 143/72(82)} mmHg
   RR: 18 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74 kg (admission): 71.1 kg
   Height: 62 Inch
             Total In:
                                                                  1,483 mL
                                                                    647 mL
   PO:
             TF:
                                                                    249 mL
                                                                    155 mL
   IVF:
                                                                    975 mL
                                                                    291 mL
   Blood products:
   Total out:
                                                                  4,160 mL
                                                                    550 mL
   Urine:
                                                                  4,160 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,677 mL
                                                                     97 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 412 (368 - 527) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), Irregular rhythm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   coarse ventilated breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Intubated but
   alert
   Labs / Radiology
   221 K/uL
   8.2 g/dL
   119 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.3 mEq/L
   19 mg/dL
   105 mEq/L
   140 mEq/L
   24.2 %
   14.2 K/uL
        [image002.jpg]
                             [**2109-3-28**]  04:28 PM
                             [**2109-3-28**]  04:34 PM
                             [**2109-3-29**]  05:27 AM
                             [**2109-3-29**]  07:27 AM
                             [**2109-3-29**]  09:30 AM
                             [**2109-3-29**]  03:01 PM
                             [**2109-3-29**]  03:23 PM
                             [**2109-3-30**]  04:33 AM
                             [**2109-3-30**]  04:00 PM
                             [**2109-3-31**]  04:21 AM
   WBC
   10.9
   9.1
   12.7
   19.5
   14.5
   14.2
   Hct
   25.0
   23.4
   27.8
   27.1
   25.0
   24.2
   Plt
   277
   226
   266
   [**Telephone/Fax (3) 2637**]
   Cr
   1.1
   1.1
   1.1
   1.3
   1.4
   1.5
   TCO2
   24
   25
   25
   25
   Glucose
   109
   100
   100
   125
   92
   119
   Other labs: PT / PTT / INR:14.4/150.0/1.3, CK / CKMB /
   Troponin-T:103/9/0.09, ALT / AST:31/24, Alk Phos / T Bili:163/0.3,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:239 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   79F with COPD, CAD, a fib, lung cancer, now with respiratory distress
   and septic shock now with clear evidence of recent cardiac event.
   .
   # Respiratory failure
 Likely resulting from septic shock (below) with
   component of CHF.  Self extubated yesterday but did not tolerate and
   had to be reintubated.  Today, RISBI again good, and could likely be
   extubated.  Has diuresed a bit since self extubating but would like to
   further optimize prior to re-attempting given patient has now had
   several intubation attempts.
   - Intubated after a complicated course at OSH (pharyngeal laceration).
   - tolerating pressure support, will wean support settings.  Get ABG on
   pressure support
   - issue regarding SQ emphysema has remained stable and low concern for
   esophageal injury
   - pharyngeal edema stable
   - Nebs given history of COPD.
   .
   # Shock:   patient with recent admission for c. difficilie coliits and
   has been on abx recently.  Ddx for sepis most likely urinary versus
   intrabdominal source vs. line sepsis.  She did  have some LLQ
   tenderness on exam.  Given Echo findings unclear what component
   cardiogenic shock may play in presentation with also evidence for
   adrenal insufficiency given inadequate response to [**Last Name (un) 45**] stim
   yesterday.  Likely multifactorial with urosepsis precipitating shock in
   patient with newly depressed EF.
   - off pressors, switched zosyn to cefepime while awaiting speciation
   urine cx, d/c vanco and flagyl, d/w ID, C.diff negative times 2
 but
   will restart cefepime given sensitivities on Urine Culture.
   - check stool culture (c. diff)
 negative times 2
   - Urine culture growing >100,000 GNR, -- Klebsiella Pneumoniae
   sensitive to cefepime.
   - SCn from blood cx, likely contaminant, f/u cx ngtd thus far, continue
   vanco for now
   - d/c steroids
   - goal diuresis of 500cc today.
   .
   # CAD: Recent large anterior infarct, with EF 20-25%.
   - Aspirin 325mg daily
   - Atorvastatin 80mg daily
   - Add ACE/B-blocker once pressure allows.
   .
   # A fib:  rate controlled for now.  Follow INR daily, 1.3, received vit
   K. PPM interrogated by EP, device working well, place on heparin gtt
   .
   #  Anemia- retic count low, % sat <25, ferritin >400 in setting stress
   response, iron 43, all this most suggestive of chronic disease with
   component iron deficiency, would add iron supplementation. stools guiac
   negative thus far
   - 1 Unit PRBC yesterday given CAD, although overloaded, risk vs.
   benefit
   .
   # DVT: Received Vit K and FFP o/n, INR 1.3, place on heparin gtt
   .
   # Transaminitis: may be from hypotension would follow daily. Have
   normalized
   .
   # A-Line: self d
d yesterday.  Held pressure for 2 hours.  No e/o
   compartment syndrome at this time but will continue to monitor.
   .
   # Access: will attempt PICC line placement, if unsuccessful will need
   LIJ, difficulty in regards to pacer wires, thrombus, prior PICC on left
   side, t o be done in IR
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2109-3-29**] 05:39 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2109-03-31 07:34:00 Physician Attending Progress Note
Chief Complaint: airway trauma, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   CT neck w/o contrast neg for abscess, resolution of SC emphysema in
   neck
   Chest CT w/o e/o mediastinitis, moderate b/l effusions (R>L)
   Diuresed
   UTI w/Klebs res to cephalosporins so changed back to zosyn
   Tolerated PSV 5/5
   Decadron 10 q6hrs peri-extubation
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-3-28**] 08:30 AM
   Metronidazole - [**2109-3-29**] 08:29 AM
   Cefipime - [**2109-3-29**] 03:30 PM - stopped
   Piperacillin/Tazobactam (Zosyn) - [**2109-3-31**] 01:49 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2109-3-30**] 09:53 PM
   Fentanyl - [**2109-3-31**] 12:22 AM
   Other medications:
   Decadron 10 IV q6hrs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-3-31**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 94 (76 - 130) bpm
   BP: 95/43(54) {77/26(36) - 143/72(82)} mmHg
   RR: 13 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74 kg (admission): 71.1 kg
   Height: 62 Inch
             Total In:
                                                                  1,483 mL
                                                                    652 mL
   PO:
             TF:
                                                                    249 mL
                                                                    155 mL
   IVF:
                                                                    975 mL
                                                                    297 mL
   Blood products:
   Total out:
                                                                  4,160 mL
                                                                    550 mL
   Urine:
                                                                  4,160 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,677 mL
                                                                    103 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 412 (368 - 527) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 5.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   221 K/uL
   119 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.3 mEq/L
   19 mg/dL
   105 mEq/L
   140 mEq/L
   24.2 %
   14.2 K/uL
        [image002.jpg]
                             [**2109-3-28**]  04:28 PM
                             [**2109-3-28**]  04:34 PM
                             [**2109-3-29**]  05:27 AM
                             [**2109-3-29**]  07:27 AM
                             [**2109-3-29**]  09:30 AM
                             [**2109-3-29**]  03:01 PM
                             [**2109-3-29**]  03:23 PM
                             [**2109-3-30**]  04:33 AM
                             [**2109-3-30**]  04:00 PM
                             [**2109-3-31**]  04:21 AM
   WBC
   10.9
   9.1
   12.7
   19.5
   14.5
   14.2
   Hct
   25.0
   23.4
   27.8
   27.1
   25.0
   24.2
   Plt
   277
   226
   266
   [**Telephone/Fax (3) 2637**]
   Cr
   1.1
   1.1
   1.1
   1.3
   1.4
   1.5
   TCO2
   24
   25
   25
   25
   Glucose
   109
   100
   100
   125
   92
   119
   Other labs: PT / PTT / INR:14.4/150.0/1.3, CK / CKMB /
   Troponin-T:103/9/0.09, ALT / AST:31/24, Alk Phos / T Bili:163/0.3,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:239 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   79 yo F critically ill with respiratory failure requiring mechanical
   ventailation, resolving sepsis, and heart failure.
   1. Pharyngeal Tear: stable oxygenation and ventilation, no
   stridor/aiway compromise when self-extubated.  Currently has cuff leak
   when ETT balloon deflated.  Getting decadron peri-extubation.  SC air
   resolved on neck CT.  ?need for ENT eval post-extubation.
   2. Resp Distress: intubated for airway protection and also CHF.  Vol
   overload main issue now but s/p sig diuresis on [**3-30**].  Tol PSV 0/5 x2.5
   hrs this am w/ABG 7.46/42/86.  Extubate this am.
   3. Hemodynamics:  hypotension, off pressors x several days.  Now volume
   overloaded - cont gentle diuresis (goal 500cc-1L neg) as tolerated by
   BP and renal function.
   4. New ant wall motion abnl and depressed EF: Pt likely had an event
   sometime in the past couple of weeks but no acute event based on
   enzymes, ECG.  ASA/statin; BB/ACEI when BP can tolerate.  Rpt TTE in a
   couple of weeks.
   5.  Klebsiella UTI: rx
ing w/zosyn (complete 10d course for complicated
   UTI).  Change foley.  WBC decreasing, afebrile.
   6.  Afib: rate controlled, on heparin gtt, may restart coumadin
   tomorrow if remains stable.
   7.  Access: L double lumen midline.
   ICU Care
   Nutrition: trial of sips under nursing supervision post extubation
   Glycemic Control:
   Lines:
   Midline - [**2109-3-29**] 05:39 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)/intubation ok
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2109-04-01 07:21:00 Physician Resident Progress Note
Chief Complaint: Septic shock, respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2109-3-31**] 11:30 AM
   Successfully extubated
   -Received one more dose of decadron and this was discontinued
   -Foley changed
   -Met goal of 1L negative for the day with one dose of 40mg IV lasix
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2109-3-29**] 08:29 AM
   Cefipime - [**2109-3-29**] 03:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-4-1**] 04:19 AM
   Infusions:
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2109-3-31**] 01:41 PM
   Fentanyl - [**2109-3-31**] 08:23 PM
   Heparin Sodium - [**2109-3-31**] 08:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-1**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 92 (87 - 136) bpm
   BP: 92/74(79) {82/43(25) - 130/97(103)} mmHg
   RR: 19 (11 - 29) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74 kg (admission): 71.1 kg
   Height: 62 Inch
             Total In:
                                                                  1,371 mL
                                                                    248 mL
   PO:
             TF:
                                                                    155 mL
   IVF:
                                                                  1,015 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    400 mL
   Urine:
                                                                  2,175 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -804 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 472 (360 - 472) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 92%
   ABG: 7.46/41/86//4
   Ve: 5 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   243 K/uL
   7.8 g/dL
   119 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.3 mEq/L
   19 mg/dL
   105 mEq/L
   140 mEq/L
   23.6 %
   14.7 K/uL
        [image002.jpg]
                             [**2109-3-29**]  05:27 AM
                             [**2109-3-29**]  07:27 AM
                             [**2109-3-29**]  09:30 AM
                             [**2109-3-29**]  03:01 PM
                             [**2109-3-29**]  03:23 PM
                             [**2109-3-30**]  04:33 AM
                             [**2109-3-30**]  04:00 PM
                             [**2109-3-31**]  04:21 AM
                             [**2109-3-31**]  10:34 AM
                             [**2109-4-1**]  04:40 AM
   WBC
   9.1
   12.7
   19.5
   14.5
   14.2
   14.7
   Hct
   23.4
   27.8
   27.1
   25.0
   24.2
   23.6
   Plt
   [**Telephone/Fax (2) 2656**]
   Cr
   1.1
   1.1
   1.3
   1.4
   1.5
   TCO2
   25
   25
   25
   30
   Glucose
   100
   100
   125
   92
   119
   Other labs: PT / PTT / INR:14.8/93.2/1.3, CK / CKMB /
   Troponin-T:103/9/0.09, ALT / AST:31/24, Alk Phos / T Bili:163/0.3,
   Differential-Neuts:94.0 %, Band:3.0 %, Lymph:3.0 %, Mono:0.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:239 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.6
   mg/dL
   Imaging: [**2-28**] ct neck showed resolved sq emphysema, no hematoma, [**Month (only) 38**]
   swelling
   Microbiology: none new
   Assessment and Plan
 CARDIOMYOPATHY, OTHER
   79F with COPD, CAD, a fib, lung cancer, now with respiratory distress
   and septic shock now with clear evidence of recent cardiac event.
   .
   # Respiratory failure
 Likely resulting from septic shock (below) with
   component of CHF.  Successfully extubated today, CT showing no evidence
   of abscess and resolution of subcutaneous air.  With residual bilateral
   pleural effusions.
   - Lasix 40mg IV times 1, reassess in AM then once S&S evaluates will
   switch to oral regimen
   - Started ipra/alb nebs, prn alb nebs
   .
   # Klebsiella UTI: c/b by septic shock that has now resolved.
   -Zosyn to complete a 10 day course given ESBL
   .
   # CAD/Heart failure: Recent large anterior infarct, with EF 20-25%.
   - Aspirin 325mg daily
   - Atorvastatin 80mg daily
   - Lasix 40 IV x1 then switch to oral regimen once cleared by S&S
   - [**Hospital1 **] lytes
   - Add B-blocker today once cleared by speech and swallow, ACEi in next
   few days.
   .
   # A fib:  rate controlled for now.  Follow INR daily, 1.3, received vit
   K. PPM interrogated by EP, device working well, place on heparin gtt.
   -restart coumadin tomorrow if HCt stablizes
   -start BB today once cleared by S&S
   .
   #  Anemia- retic count low, % sat <25, ferritin >400 in setting stress
   response, iron 43, all this most suggestive of chronic disease with
   component iron deficiency, would add iron supplementation. stools guiac
   negative thus far
   - transfuse hct <23
   - ferrous sulfate
   ICU Care
   Nutrition: clear with S&S prior to advancing diet
   Glycemic Control:  not requiring any insulin
   Lines:
   Midline - [**2109-3-29**] 05:39 PM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer: H2 blocker
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2109-04-01 11:13:00 Physician Attending Progress Note
Chief Complaint: resp failure, sepsis, pharyngeal tear
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo F admitted with respiratory failure requiring mechanical
   ventailation c/b pharyngeal tear, now extubated, resolving sepsis, and
   heart failure.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2109-3-31**] 11:30 AM
   successfully extubated yesterday
   diuresed with lasix drip
   History obtained from Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2109-3-29**] 03:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-4-1**] 04:19 AM
   Infusions:
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2109-3-31**] 01:41 PM
   Fentanyl - [**2109-3-31**] 08:23 PM
   Heparin Sodium - [**2109-3-31**] 08:56 PM
   Famotidine (Pepcid) - [**2109-4-1**] 07:49 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-1**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96
   HR: 109 (88 - 136) bpm
   BP: 121/69(77) {82/48(25) - 130/89(102)} mmHg
   RR: 17 (11 - 29) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74 kg (admission): 71.1 kg
   Height: 62 Inch
             Total In:
                                                                  1,371 mL
                                                                    341 mL
   PO:
             TF:
                                                                    155 mL
   IVF:
                                                                  1,015 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    470 mL
   Urine:
                                                                  2,175 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -804 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse:present), (Left DP pulse:present)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: diffuse)
   distant
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 4, Movement: all 4 extNo(t) Sedated, No(t)
   Paralyzed,
   Labs / Radiology
   7.8 g/dL
   243 K/uL
   126 mg/dL
   1.4 mg/dL (1.0 baseline)
   28 mEq/L
   3.5 mEq/L
   21 mg/dL
   96 mEq/L
   139 mEq/L
   23.6 %
   14.7 K/uL
        [image002.jpg]
                             [**2109-3-29**]  05:27 AM
                             [**2109-3-29**]  07:27 AM
                             [**2109-3-29**]  09:30 AM
                             [**2109-3-29**]  03:01 PM
                             [**2109-3-29**]  03:23 PM
                             [**2109-3-30**]  04:33 AM
                             [**2109-3-30**]  04:00 PM
                             [**2109-3-31**]  04:21 AM
                             [**2109-3-31**]  10:34 AM
                             [**2109-4-1**]  04:40 AM
   WBC
   9.1
   12.7
   19.5
   14.5
   14.2
   14.7
   Hct
   23.4
   27.8
   27.1
   25.0
   24.2
   23.6
   Plt
   [**Telephone/Fax (3) 2656**]
   Cr
   1.1
   1.1
   1.3
   1.4
   1.5
   1.4
   TCO2
   25
   25
   25
   30
   Glucose
   100
   100
   125
   92
   119
   126
   Other labs: PT / PTT / INR:14.8/93.2/1.3, CK / CKMB /
   Troponin-T:103/9/0.09, ALT / AST:31/24, Alk Phos / T Bili:163/0.3,
   Differential-Neuts:94.0 %, Band:3.0 %, Lymph:3.0 %, Mono:0.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:239 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.1
   mg/dL
   Imaging: [**3-30**] neck ct--resolution of sq air, no new
   Microbiology: no new data
   Assessment and Plan
   79 yo F admitted with respiratory failure requiring mechanical
   ventailation c/b pharyngeal tear, now extubated, resolving urosepsis,
   and heart failure.
   Main issues remain:
   # Klebsiella UTI
   ESBL, complete course of zosyn (rx 10d course for complicated UTI).
   WBC decreasing, remains afebrile.
   # tennuos respiratory status
   s/p extubation
   aspiration risks
   COPD
       Vol overload main issue but tolerating diuresis
        MDI
       Aggressive chest pt, encourage cough, wean O2, insufflator/ex if
   able to tolerate  given recent pharyngeal tear
       NPO for aspiration risk pending swallow study
   # systolic heart failure
   Remains volume overloaded-- cont gentle diuresis (goal 500cc neg) as
   tolerated by BP and renal function with IV lasix daily, montioring cr
   Continue to hold aldactone
   # New ant wall motion abnl
   likely had an event  in the past weeks, no acute event based on
   enzymes, ECG.
   Continue ASA/statin; BB/ACEI when BP can tolerate.
    TTE in a [**11-21**] wks to reassess
   # Pharyngeal tear:
   SC air resolved on repeat neck CT
   Stable h/h without active bleeding
   NPO pending swallow eval
   # anemia
transfuse if < 23, [**Hospital1 **] h/h
   # Afib: rate controlled,
   on heparin gtt, would restart coumadin
   ICU Care
   Nutrition:  npo, awaits swallow eval for aspiration risks
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2109-3-29**] 05:39 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: (Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: extubated
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU, given tenuous resp status
   Total time spent: 40 minutes

2109-04-02 07:41:00 Physician Resident Progress Note
Chief Complaint: 79F with COPD, CAD, a fib, lung cancer, now with
   respiratory distress and urosepsis now with clear evidence of recent
   cardiac event.
   24 Hour Events:
 STOOL CULTURE - At [**2109-4-1**] 02:09 PM
   Pain right hip with negative x-rays.
   Oxycodone and Tylenol pain.
   Held Lasix dose at midnight for lowish blood pressure.
   Overall -267 cc
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-4-1**] 03:38 PM
   Infusions:
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-4-1**] 07:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-2**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 88 (76 - 131) bpm
   BP: 93/66(87) {76/12(28) - 155/75(106)} mmHg
   RR: 9 (9 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74 kg (admission): 71.1 kg
   Height: 62 Inch
             Total In:
                                                                  1,283 mL
                                                                    104 mL
   PO:
             TF:
   IVF:
                                                                    908 mL
                                                                    104 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,550 mL
                                                                    110 mL
   Urine:
                                                                  1,550 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -267 mL
                                                                     -6 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irregular rhythm
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar , Rhonchorous: Transmitted upper airway sounds throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, No(t) Rash: , Transudative leakage
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): to self, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   272 K/uL
   8.2 g/dL
   127 mg/dL
   1.5 mg/dL
   29 mEq/L
   3.8 mEq/L
   26 mg/dL
   101 mEq/L
   141 mEq/L
   23.9 %
   21.4 K/uL
        [image002.jpg]
                             [**2109-3-29**]  03:01 PM
                             [**2109-3-29**]  03:23 PM
                             [**2109-3-30**]  04:33 AM
                             [**2109-3-30**]  04:00 PM
                             [**2109-3-31**]  04:21 AM
                             [**2109-3-31**]  10:34 AM
                             [**2109-4-1**]  04:40 AM
                             [**2109-4-1**]  03:11 PM
                             [**2109-4-1**]  11:52 PM
                             [**2109-4-2**]  04:25 AM
   WBC
   12.7
   19.5
   14.5
   14.2
   14.7
   19.7
   21.5
   21.4
   Hct
   27.8
   27.1
   25.0
   24.2
   23.6
   21.1
   24.6
   23.9
   Plt
   266
   315
   276
   221
   243
   324
   281
   272
   Cr
   1.1
   1.3
   1.4
   1.5
   1.4
   1.4
   1.5
   TCO2
   25
   30
   Glucose
   100
   125
   92
   119
   126
   126
   127
   Other labs: PT / PTT / INR:14.5/66.9/1.3, CK / CKMB /
   Troponin-T:103/9/0.09, ALT / AST:31/24, Alk Phos / T Bili:163/0.3,
   Differential-Neuts:94.0 %, Band:3.0 %, Lymph:3.0 %, Mono:0.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:239 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.2
   mg/dL
   Imaging: Right hip films: no evidence of femur fracture
   Microbiology: Blood culture [**3-30**]: NGTD
   Urine culture [**4-1**]: NGTD
   Sputum: 4+ GNR, Culture pending
   C.diff negative x 3
   Assessment and Plan
   79F with COPD, CAD, A fib, who initially presented with urosepsis and
   respiratory failure.  Now with resolving klebsiella UTI and Volume
   overload
   # Respiratory failure
 Likely resulting from septic shock (below) with
   a  component of CHF.  Successfully extubated [**3-31**], CT showing no
   evidence of abscess and resolution of subcutaneous air.  With residual
   bilateral pleural effusions.  Difficult to keep UOP at goal in the
   setting of hypotension.  Now with 4+ GNR on sputum culture and ? RLL
   infiltrate
   - Will continue with zosyn, adding vancomycin and cipro if she spikes
   for ventilator-associated PNA
   - Lasix 20mg IV BID, holding in the setting of hypotension.  Will give
   some blood with a small lasix bolus today and start a gtt if she
   continues to need
   - ipra/alb nebs, prn alb nebs
   # Klebsiella UTI: c/b by septic shock that has now resolved.
   -Zosyn to complete a 10 day course given ESBL, currently day [**2-28**]
   # CAD/Heart failure: Recent large anterior infarct, with EF 20-25%.
   Goal to keep negative 500-1L given extravascular fluid overload.
   However, difficult to manage given low BP
   -Lasix currently held in the setting of hypotension, will give small
   bolus with blood products and start gtt if she is not at goal
   - Aspirin 325mg daily
   - Atorvastatin 80mg daily
   - [**Hospital1 **] lytes
   - Add beta blocker once pressure stable, as cleared by speech and
   swallow.
   # A fib:  rate controlled for now.  PPM interrogated by EP, device
   working well, on heparin gtt
   -Restart coumadin today
   -Restart BB once BP under control
   #  Anemia- retic count low, % sat <25, ferritin >400 in setting stress
   response, iron 43, all this most suggestive of chronic disease with
   component iron deficiency, would add iron supplementation. stools guiac
   negative thus far
   - Would consider blood transfusion in the setting of low UOP,
   hypotension, and CAD
   - ferrous sulfate
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2109-3-29**] 05:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2109-04-02 11:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo F admitted with respiratory failure requiring mechanical
   ventailation c/b pharyngeal tear, now extubated, resolving urosepsis,
   and heart failure.
   24 Hour Events:
 STOOL CULTURE - At [**2109-4-1**] 02:09 PM
   delirius overnight
   borderline BP so held PM lasix dose
   1 unit prbc transfusion
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-4-2**] 09:37 AM
   Infusions:
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-2**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 96 (76 - 131) bpm
   BP: 113/66(76) {76/12(28) - 155/96(106)} mmHg
   RR: 15 (9 - 31) insp/min
   SpO2: 0%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74 kg (admission): 71.1 kg
   Height: 62 Inch
             Total In:
                                                                  1,283 mL
                                                                    254 mL
   PO:
             TF:
   IVF:
                                                                    908 mL
                                                                    254 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,550 mL
                                                                    210 mL
   Urine:
                                                                  1,550 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -267 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 0%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, confused
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/b, Bronchial: , Rhonchorous: throughout anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing,
   anasarca
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X 3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   272 K/uL
   127 mg/dL
   1.5 mg/dL (1.4)
   29 mEq/L
   3.8 mEq/L
   26 mg/dL
   101 mEq/L
   141 mEq/L
   23.9 %
   21.4 K/uL
        [image002.jpg]
                             [**2109-3-29**]  03:01 PM
                             [**2109-3-29**]  03:23 PM
                             [**2109-3-30**]  04:33 AM
                             [**2109-3-30**]  04:00 PM
                             [**2109-3-31**]  04:21 AM
                             [**2109-3-31**]  10:34 AM
                             [**2109-4-1**]  04:40 AM
                             [**2109-4-1**]  03:11 PM
                             [**2109-4-1**]  11:52 PM
                             [**2109-4-2**]  04:25 AM
   WBC
   12.7
   19.5
   14.5
   14.2
   14.7
   19.7
   21.5
   21.4
   Hct
   27.8
   27.1
   25.0
   24.2
   23.6
   21.1
   24.6
   23.9
   Plt
   266
   315
   276
   221
   243
   324
   281
   272
   Cr
   1.1
   1.3
   1.4
   1.5
   1.4
   1.4
   1.5
   TCO2
   25
   30
   Glucose
   100
   125
   92
   119
   126
   126
   127
   Other labs: PT / PTT / INR:14.5/66.9/1.3, CK / CKMB /
   Troponin-T:103/9/0.09, ALT / AST:31/24, Alk Phos / T Bili:163/0.3,
   Differential-Neuts:92.0 %, Band:1.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:239 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.2
   mg/dL
   Imaging: cxr--very rotated, layering r effusion
   Microbiology: [**3-30**] ngtd
   urine [**4-1**] ngtd
   sputum 4+ GNR cx pending
   c diff neg X 2
   Assessment and Plan
   79 yo F admitted with respiratory failure requiring mechanical
   ventailation c/b pharyngeal tear, now extubated, resolving urosepsis,
   and heart failure.
   Main issues remain:
   # systolic heart failure
   Remains volume overloaded but intravascularly dry--difficult to diurese
   given b/l  hyotension, cont gentle diuresis (goal 500cc neg) as
   tolerated by BP and renal function with IV lasix daily and blood today,
   if unable to tolerate will restart lasix ggt, montioring cr/lytes [**Hospital1 **]
   Continue to hold aldactone
   # leukocytosis-? related to high dose steroids given 2 days vs
   infection/hap, line, cdiff
   add vanco if spikes
   repeat cx's
   cdiff neg X 2 yesterday
   # Klebsiella UTI
   ESBL, complete course of zosyn for complicated uti  day  [**2-28**]
   WBC now increasing, remains afebrile.
   # tennuos respiratory status
   s/p extubation 2 days ago
   aspiration risks
   COPD
   effusions
       Vol overload main issue
        MDI
       Aggressive chest pt, encourage cough, wean O2, insufflator/ex if
   able to tolerate given recent pharyngeal tear
       NPO for aspiration risk pending swallow study
       f/u sputum cx result
   # New ant wall motion abnl
   likely had an event  in the past weeks, no acute event based on
   enzymes, ECG.
   Continue ASA/statin; BB/ACEI when BP can tolerate.
   repeat TTE in a [**11-21**] wks to reassess
   # Pharyngeal tear:
   SC air resolved on repeat neck CT
   Stable h/h without active bleeding
   NPO pending swallow eval
   # anemia
transfuse prbc, iron
   # Afib: rate controlled,
   on heparin gtt, would hold on restart coumadin pending stable h/h
   ICU Care
   Nutrition:
   Comments: npo pending swallow study
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2109-3-29**] 05:39 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes

2109-04-03 07:23:00 Physician Resident Progress Note
Chief Complaint: 79F with COPD, CAD, A fib, who initially presented
   with sepsis and respiratory failure.  Now with resolving klebsiella UTI
   and Volume overload
   24 Hour Events:
 FLUOROSCOPY - At [**2109-4-2**] 04:07 PM
 EKG - At [**2109-4-2**] 09:05 PM
 BLOOD CULTURED - At [**2109-4-2**] 11:20 PM FOR ELEVATED WBC COUNT
   - Transfused 1 unit PRBC's in AM, bumped appropriately from 24-29.3
   - Gastrograffin swallow: No esophageal fistula, injury, but prominent
   hypopharyngeal tear - study notable for silent aspiration.
   - Held lasix gtt in PM for rising Cr.
   - Late evening patient with increasing respiratory distress.  No
   improvement with nebulizers, suction.  ?aspiration vs. CHF.  CXR no
   significant change, Lung exam wheezy after nebs, EKG with ST
   depressions antero-laterally.  Sent CE's, restarted lasix gtt with
   improvement, total -700cc for the day
   -Delirious in the AM, pulled out mid-line this AM, in for PICC line
   request.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsSulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-4-3**] 02:00 AM
   Infusions:
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Dextrose 50% - [**2109-4-2**] 06:50 PM
   Furosemide (Lasix) - [**2109-4-2**] 08:45 PM
   Morphine Sulfate - [**2109-4-2**] 11:21 PM
   Other medications:
   Atrovent/albuterol nebs
   Morphine prn pain
   Lasix gtt
   ISS
   Heparin gtt
   zosyn
   atorvastatin
   bowel regimen
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-3**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 101 (83 - 128) bpm
   BP: 167/125(130) {81/44(28) - 167/125(130)} mmHg
   RR: 14 (8 - 28) insp/min
   SpO2: 80%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74 kg (admission): 71.1 kg
   Height: 62 Inch
             Total In:
                                                                    829 mL
                                                                    226 mL
   PO:
             TF:
   IVF:
                                                                    429 mL
                                                                    226 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,520 mL
                                                                    530 mL
   Urine:
                                                                  1,520 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -691 mL
                                                                   -304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 80%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, Delirious, shouting
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, Bronchial: Transmitted upper airway sounds throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, Shouting "stop trying to
   hurt me", pulling out lines.  Can be transiently redirected.
   Labs / Radiology
   260 K/uL
   9.5 g/dL
   116 mg/dL
   1.5 mg/dL
   33 mEq/L
   3.3 mEq/L
   26 mg/dL
   99 mEq/L
   141 mEq/L
   27.1 %
   22.2 K/uL
        [image002.jpg]
                             [**2109-3-30**]  04:00 PM
                             [**2109-3-31**]  04:21 AM
                             [**2109-3-31**]  10:34 AM
                             [**2109-4-1**]  04:40 AM
                             [**2109-4-1**]  03:11 PM
                             [**2109-4-1**]  11:52 PM
                             [**2109-4-2**]  04:25 AM
                             [**2109-4-2**]  05:26 PM
                             [**2109-4-2**]  09:08 PM
                             [**2109-4-3**]  05:23 AM
   WBC
   14.5
   14.2
   14.7
   19.7
   21.5
   21.4
   26.0
   20.6
   22.2
   Hct
   25.0
   24.2
   23.6
   21.1
   24.6
   23.9
   29.3
   26.0
   27.1
   Plt
   [**Telephone/Fax (3) 2705**]24
   [**Telephone/Fax (3) 2706**]
   Cr
   1.4
   1.5
   1.4
   1.4
   1.5
   1.7
   1.5
   TropT
   0.07
   TCO2
   30
   Glucose
   92
   119
   126
   126
   127
   138
   116
   Other labs: PT / PTT / INR:14.0/33.6/1.2, CK / CKMB /
   Troponin-T:555/7/0.07, ALT / AST:31/24, Alk Phos / T Bili:163/0.3,
   Differential-Neuts:92.0 %, Band:1.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:239 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.6
   mg/dL
   Fluid analysis / Other labs: Cardiac enzymes 9PM on [**4-1**]: 528/0.07
   Cardiac enzymes 5AM on [**4-2**]: 555/P
   Imaging: Gastrograffin swallow: Preliminary
   1. Hypopharyngeal tear posteriorly.
   2. Silent aspiration.
   3. No fistula
   Microbiology: Sputum [**3-30**]: 4+ GNR, culture pending
   Blood cultures [**Date range (1) 2707**]: NGTD
   Urine [**3-26**]: Klebsiella sensitive to zosyn
   [**4-2**]: NGTD
   Stool negative for C. diff x2
   Assessment and Plan
   79F with COPD, CAD, A fib, who initially presented with sepsis and
   respiratory failure.  Now with resolving klebsiella UTI, leukocytosis,
   and Volume overload
   # Klebsiella UTI: from cultures on [**2109-3-26**], sensitive to zosyn
   -Zosyn to complete a 10 day course currently day [**3-30**]
   # Leukocytosis: WBC count bumped to 19-22 on [**4-1**] with a left shift.
   No fevers associated with this.  She is currently being treated for a
   UTI, and recieved decadron on [**4-8**] peri-extubation.  She has no
   evidence of abscess around her hypopharyngeal tear, and blood cultures
   are with NGTD.  Her sputum shows 4+ GNR in the setting of recent
   intubation, cultures pending.  Some concern for a ventilator
   -associated PNA, however CXR's do not show consolidation.  Other
   possibility is a steroid-induced leukocytosis that is slow to resolve.
   -Will continue with zosyn for UTI, adding vancomycin and cipro if she
   spikes to cover for a ventilator-associated PNA
   -Continue to monitor WBC count and fever curve.
   # Respiratory distress
 Initial respiratory failure on admission
   resulting from septic shock with a  component of CHF.  Successfully
   extubated [**3-31**].  Now with 4+ GNR on sputum culture and ? RLL infiltrate
   and volume overload that is difficult to manage in the setting of
   transient hypotension.  Was 700cc negative for the day yesterday, and
   gets symptomatic relief with lasix.
   -Continue lasix gtt prn to keep 500-1000cc negative daily
   - ipra/alb nebs, prn alb nebs
   # CAD/Heart failure: Recent large anterior infarct, with EF 20-25%.
   Goal to keep negative 500-1L given extravascular fluid overload.
   However, difficult to manage given low BP
   -See above for management of fluid overload
   - [**Hospital1 **] lytes
   -No beta blocker, atorvastatin, or ASA as she failed S&S
   # Delirium: worse in the AM
   -will give PM dose of SL zyprexa vs. IV haldol to re-institute a
   sleep-wake cycle
   # A fib:  rate controlled for now.  PPM interrogated by EP, device
   working well, on heparin gtt
   -Heparin gtt for now, can restart coumadin when cleared by s&s
   -Restart BB once BP under control
   # ARF:
   -Likely from lasix, will continue to monitor
   #  Anemia- retic count low, % sat <25, ferritin >400 in setting stress
   response, iron 43, all this most suggestive of chronic disease with
   component iron deficiency, would add iron supplementation. stools guiac
   negative thus far
   - Would consider blood transfusion in the setting of low UOP,
   hypotension, and CAD, should she become intravascularly depleted
   - ferrous sulfate
   ICU Care
   Nutrition:
   Currently NPO
   Failed speech and swallow eval.  Will need to discuss with the family
   options for PEG tube until she recovers function.
   Glycemic Control:
   Lines:  In for IR guided PICC today
   Midline - [**2109-3-29**] 05:39 PM
   Prophylaxis:
   DVT:  heparin gtt
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), OK to intubate
   Disposition: ICU until no longer needing lasix gtt

2109-04-03 11:23:00 Physician Attending Progress Note
Chief Complaint: urosepsis, pharyngeal tear
   HPI:
   79 yo F admitted with respiratory failure requiring mechanical
   ventilation c/b pharyngeal tear, now extubated, resolving urosepsis,
   heart failure, delirium.
   24 Hour Events:
 FLUOROSCOPY - At [**2109-4-2**] 04:07 PM
 EKG - At [**2109-4-2**] 09:05 PM
 BLOOD CULTURED - At [**2109-4-2**] 11:20 PM
   gastrograff swallow--no tracheo esoph fistula
   video swallow
aspiration
   transfused 1 unit prbc with lasix
   resp distress overnight--no response to nebs, sx--imrpoved with lasix
   ggt had st depression son ecg  ([**Name2 (NI) 2711**], I F)
   self d/c'd picc line
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Verapamil
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-4-3**] 02:00 AM
   Infusions:
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Dextrose 50% - [**2109-4-2**] 06:50 PM
   Furosemide (Lasix) - [**2109-4-2**] 08:45 PM
   Morphine Sulfate - [**2109-4-2**] 11:21 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-3**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 103 (80 - 128) bpm
   BP: 143/84(94) {81/44(28) - 167/125(148)} mmHg
   RR: 20 (8 - 28) insp/min
   SpO2: 74% (poor sigmal)
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74 kg (admission): 71.1 kg
   Height: 62 Inch
             Total In:
                                                                    829 mL
                                                                    287 mL
   PO:
             TF:
   IVF:
                                                                    429 mL
                                                                    287 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,520 mL
                                                                    990 mL
   Urine:
                                                                  1,520 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -691 mL
                                                                   -703 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 74%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress, confused, delirius
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): self, year, confused, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   260 K/uL
   116 mg/dL
   1.5 mg/dL (1.7)
   33 mEq/L
   3.3 mEq/L
   26 mg/dL
   99 mEq/L
   141 mEq/L
   27.1 %
   22.2 K/uL
        [image002.jpg]
                             [**2109-3-30**]  04:00 PM
                             [**2109-3-31**]  04:21 AM
                             [**2109-3-31**]  10:34 AM
                             [**2109-4-1**]  04:40 AM
                             [**2109-4-1**]  03:11 PM
                             [**2109-4-1**]  11:52 PM
                             [**2109-4-2**]  04:25 AM
                             [**2109-4-2**]  05:26 PM
                             [**2109-4-2**]  09:08 PM
                             [**2109-4-3**]  05:23 AM
   WBC
   14.5
   14.2
   14.7
   19.7
   21.5
   21.4
   26.0
   20.6
   22.2
   Hct
   25.0
   24.2
   23.6
   21.1
   24.6
   23.9
   29.3
   26.0
   27.1
   Plt
   [**Telephone/Fax (3) 2705**]24
   [**Telephone/Fax (3) 2706**]
   Cr
   1.4
   1.5
   1.4
   1.4
   1.5
   1.7
   1.5
   TropT
   0.07
   0.07
   TCO2
   30
   Glucose
   92
   119
   126
   126
   127
   138
   116
   Other labs: PT / PTT / INR:14.0/33.6/1.2, CK / CKMB /
   Troponin-T:555/7/0.07, ALT / AST:31/24, Alk Phos / T Bili:163/0.3,
   Differential-Neuts:92.0 %, Band:1.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0
   %, D-dimer:1470 ng/mL, Fibrinogen:413 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:239 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.6
   mg/dL
   Imaging: swallow study--hypopharyngeal tear, no fistula, silent
   aspiration
   cxr--r > L layering effusion, no new focal infiltrate
   Microbiology: [**3-30**]--sputum 4 + gnr cx pending
   [**Date range (1) 2707**] bl ngtd
   urine [**3-26**] kleb, [**4-2**] ngtd
   stool cdiff neg X 2
   Assessment and Plan
   79 yo F admitted with respiratory failure requiring mechanical
   ventilation c/b pharyngeal tear, now extubated, resolving urosepsis,
   heart failure, delirium, and leukocytosis.
   Main issues remain:
   # systolic heart failure
   Remains volume overloaded but intravascularly dry
   Neg fluid balance with lasix + blood yesterday
   Continue lasix drip
   montioring cr/lytes [**Hospital1 **]
   Continue to hold aldactone
   # leukocytosis- initially felt  related to high dose steroids given
   peri-extubation though concern for  infection (hap, cdiff)
   remains af, diff with 90% PMN, now more confused but tends to sun down
   sputum with GNR 4 + with cx pending, no new secretions or obvious
   infiltrate on cxr
   without change in hd to suggest septic physiology
   --f/u cx data
   - recheck c diff
   - dd Vanco/cipro and cdiff treatment empirically if spikes
   # Klebsiella UTI
   ESBL, complete course of zosyn for complicated uti on day  [**3-30**]
   WBC now increasing as above, remains afebrile.
   # tennuos respiratory status/hypoxia--multifactorial
   continued aspiration risks
   COPD
   effusions/vol o/l
       Vol overload main issue, continue diuresis as tolerated
       Continue MDI
       Aggressive chest pt, encourage cough, wean O2, insufflator/ex if
   able to tolerate given recent pharyngeal tear
       f/u sputum cx result (remains without change in sputum quality or
   amt)
   # ant wall motion abnl, ? new demand ischemia
   f/u card enzymes
   medical management w/ ASA/statin, heparin ggt
    add BB/ACEI when BP can tolerate
   repeat TTE later this week
   #aspiration risks--failed swallow study
   NPO for aspir risks
   Continue to discuss with pt
s family goals of care and possible
   transition to feeding tube for nutrition
   # Delirium/sundowning
   Infection w/u
   optimize sleep wake cycle, add zyprexa/reorient
   # Pharyngeal tear/aspiration :
   SC air resolved on repeat neck CT, no abscess
   Stable h/h without active bleeding
   # Afib: rate controlled,
   on heparin gtt, would hold on restart coumadin pending stabilization
   h/h
   # ARF--cr stable, monitoring met alkalosis with diureses
   # access
PIV, self d/c
d picc, awaits new picc placement
   ICU Care
   Nutrition: NPO, discuss feeding tube, consider TPN
   Glycemic Control:  bs stable range
   Lines:
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   1